US06855710B2
a) 4-(3-hydroxyprop-1-ynyl)-nitrobenzene
8.55 g (0.15 mol) of propargyl alcohol and 152 ml (110 g, 1.09 mol) of triethylamine are added to a solution of 20.2 g (0.1 mol) of 4-bromonitrobenzene in 285 ml of acetonitrile. The reaction solution is heated to 100° C. 11.9 g (10 mmol) of Pd(Pph3)4 and 3.94 g (20 mmol) of copper (I) iodide are added. After 10 minutes the solvent is eliminated in vacuo and the residue taken up in ethyl acetate. It is washed with water and ammonia water, filtered through Celite and the solvent is eliminated in vacuo. The product is obtained by chromatography on silica gel (dichloromethane/methanol=10:1).

reactant | propargyl alcohol | 0.15 mol, 8.55 g | C(C#C)O | C3H4O
reactant | triethylamine | 1.09 mol, 152 ml, 110 g | C(C)N(CC)CC | C6H15N
reactant | 4-bromonitrobenzene | 0.1 mol, 20.2 g | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
solvent | acetonitrile | 285 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(Pph3)4 | 10 mmol, 11.9 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
catalyst | copper (I) iodide | 20 mmol, 3.94 g | [Cu]I
product | 4-(3-hydroxyprop-1-ynyl)-nitrobenzene | OCC#CC1=CC=C(C=C1)[N+](=O)[O-] | C9H7NO3
